US08563565B2
(3) Synthesis of 4-iodo-2-methoxy-3,5-dimethylpyridine
A 28% solution of sodium methoxide in methanol (185 mL) was added to 2-fluoro-4-iodo-3,5-dimethylpyridine (97.4 g) in THF (954 mL) at 20° C. The mixture was stirred at 55° C. to 65° C. for two hours. The reaction mixture was cooled and then partitioned by adding MTBE (1 L) and water (1 L). The organic layer was washed with brine. The combined aqueous layers were extracted with MTBE (500 mL×2). The combined organic layers were dried over anhydrous magnesium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. n-heptane (50 mL) was added to the residue, and the mixture was stirred at 0° C. for one hour. The precipitated solid was collected by filtration. The solid was washed with cooled n-heptane (10 mL). The title compound (42.6 g) was obtained. The filtrate was concentrated under reduced pressure. n-heptane (5 mL) was added to the residue, and the mixture was stirred at 0° C. for 30 minutes. The precipitated solid was collected by filtration. The solid was washed with cooled n-heptane (2 mL) The title compound (20.2 g) was obtained. The filtrate was concentrated under reduced pressure. n-heptane (5 mL) was added to the residue, and the mixture was stirred at 0° C. for 30 minutes. The precipitated solid was collected by filtration. The solid was washed with cooled n-heptane (2 mL). The title compound (10.7 g) was obtained. The combined title compound (73.5 g) was obtained.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-fluoro-4-iodo-3,5-dimethylpyridine | 97.4 g | FC1=NC=C(C(=C1C)I)C | C7H7FIN
solvent | methanol | 185 mL | CO | CH4O
solvent | THF | 954 mL | C1CCOC1 | C4H8O
product | 4-iodo-2-methoxy-3,5-dimethylpyridine | 42.6 g | IC1=C(C(=NC=C1C)OC)C | C8H10INO
